US07919488B2
(3R)-1-{[5-(4-fluorobenzyl)-3-(1H-imidazol-4-yl)-1H-pyrazol-1-yl]acetyl}piperidin-3-ol
A mixture of [5-(4-fluorobenzyl)-3-(1H-imidazol-4-yl)-1H-pyrazol-1-yl]acetic acid (0.5 g, 1.67 mmol), (R)-piperidin-3-ol (0.30 g, 2.50 mmol), EDCI (0.58 g, 3.0 mmol), HOBt (0.40 g, 3.0 mmol) and NMM (1.0 mL, 10.0 mmol) in DMF (15 mL) was stirred at room temperature overnight. The mixture was concentrated in vacuo and the residue was diluted with water (5 mL). The mixture was extracted with CH2Cl2 (3×5 mL) and the organics combined, washed with 1 N aq. NaOH (3×10 mL), water (3×5 mL) and brine (25 mL), dried over MgSO4 and evaporated. The residue was purified via column chromatography (silica gel, EtOAc/Petroleum ether 1:4) to yield crude material (201.0 mg), which was further purified via prep. HPLC to yield the title compound (100 mg, 15%) as a white solid. 1H NMR (400 MHz, MeOD): δ ppm 8.837 (s, 1H), 7.699 (s, 1 H), 7.303 (m, 2 H), 7.078 (m, 2 H), 6.337 (s, 1 H), 3.992-3.039 (m, 7 H), 1.994-1.400 (m, 4 H).

reactant | [5-(4-fluorobenzyl)-3-(1H-imidazol-4-yl)-1H-pyrazol-1-yl]acetic acid | 1.67 mmol, 0.5 g | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C=2N=CNC2)C=C1 | C15H13FN4O2
reactant | (R)-piperidin-3-ol | 2.50 mmol, 0.30 g | N1C[C@@H](CCC1)O | C5H11NO
reactant | EDCI | 3.0 mmol, 0.58 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.0 mmol, 0.40 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 10.0 mmol, 1.0 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (3R)-1-{[5-(4-fluorobenzyl)-3-(1H-imidazol-4-yl)-1H-pyrazol-1-yl]acetyl}piperidin-3-ol | 100 mg, 15% | FC1=CC=C(CC2=CC(=NN2CC(=O)N2C[C@@H](CCC2)O)C=2N=CNC2)C=C1 | C20H22FN5O2
